US07547691B2
2-{5-Chloro-2-[3-(4-ethylpiperidin-4-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid methylamide di-hydrochloride
Using the method of 2-{5-chloro-2-[3-(4-ethylpiperidin-4-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide di-hydrochloride, the title compound is synthesized from 2-(2,5-dichloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid methylamide and 4-(3-aminopropyl)-4-ethylpiperidine-1-carboxylic acid tert-butyl ester and isolated as a solid. ES+(m/z) 472 (35Cl) and 474 (37Cl) [M(free base)+H].

reactant | 2-{5-chloro-2-[3-(4-ethylpiperidin-4-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide di-hydrochloride | Cl.Cl.C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCC2(CCNCC2)CC
reactant | 2-(2,5-dichloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid methylamide | CNC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)Cl | C14H9Cl2N3OS
reactant | 4-(3-aminopropyl)-4-ethylpiperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(CC)CCCN | C15H30N2O2
product | 2-{5-Chloro-2-[3-(4-ethylpiperidin-4-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid methylamide di-hydrochloride | Cl.Cl.CNC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCC2(CCNCC2)CC | InChI=1S/C24H30ClN5OS.2ClH/c1-3-24(9-12-27-13-10-24)8-5-11-28-23-29-15-18(25)21(30-23)20-14-17-16(22(31)26-2)6-4-7-19(17)32-20;;/h4,6-7,14-15,27H,3,5,8-13H2,1-2H3,(H,26,31)(H,28,29,30);2*1H
